US04409371
In a typical procedure, molten maleic anhydride and the desired amount of DCPD are maintained at an elevated temperature of from about 150° C. or higher to form endomethylenetetrahydrophthalic anhydride. The temperature is then allowed to stabilize at about 60° to 130° C. and a fractional equivalent of water is added. A fractional equivalent of DCPD is added and allowed to react. A second fractional equivalent of water and of DCPD is added and allowed to react. Additional fractional equivalents of DCPD are added and each allowed to react before subsequent addition of the next increment until the desired amount of DCPD has been added.

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | DCPD | C1C=CC2C1[C@H]3C[C@@H]2C=C3 | C10H12
product | endomethylenetetrahydrophthalic anhydride | C1C2C=CC1C3C2C(=O)OC3=O | C9H8O3
